US07994185B2
2,6-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[3-(2-oxo-1-pyrrolidinyl)propyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide
Following a procedure analogous to the procedure described in Example 1 using N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide (0.15 g, 0.29 mmol) and 1-(3-aminopropyl)-2-pyrrolidinone (0.60 ml, 4.3 mmol) the title compound was obtained (0.070 g, 37% yield); 1H NMR (400 MHz, DMSO-d6) δ ppm 10.92 (s, 1H), 8.08 (d, J=5.0 Hz, 1H), 7.65-7.79 (m, 1H), 7.35-7.49 (m, 2H), 7.19-7.34 (m, 4H), 6.11-6.26 (m, 1H), 3.22 (t, J=6.8 Hz, 4H), 2.21 (t, J=8.1 Hz, 2H), 1.91 (quin, J=7.6 Hz, 2H), 1.63-1.74 (m, 2H), 1.36 (d, J=6.9 Hz, 6H). MS (ES+): 631 [M+H]+.

reactant | N-{5-[5-(2-chloro-4-pyrimidinyl)-2-(1-methylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-2,6-difluorobenzenesulfonamide | 0.29 mmol, 0.15 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)C)C=1C=CC(=C(C1)NS(=O)(=O)C1=C(C=CC=C1F)F)F | C22H16ClF3N4O2S2
reactant | 1-(3-aminopropyl)-2-pyrrolidinone | 4.3 mmol, 0.60 ml | NCCCN1C(CCC1)=O | C7H14N2O
product | 2,6-Difluoro-N-{2-fluoro-5-[2-(1-methylethyl)-5-(2-{[3-(2-oxo-1-pyrrolidinyl)propyl]amino}-4-pyrimidinyl)-1,3-thiazol-4-yl]phenyl}benzenesulfonamide | 37% yield | FC1=C(C(=CC=C1)F)S(=O)(=O)NC1=C(C=CC(=C1)C=1N=C(SC1C1=NC(=NC=C1)NCCCN1C(CCC1)=O)C(C)C)F | C29H29F3N6O3S2
